US08008283B2
To a solution of benzyltrimethylammonium hydroxide (451 mg, 2.7 mmol) in water (1 mL) was added bumetanide (1 g, 2.7 mmol) over a period of 5 minutes. The reaction mixture became clear after 10 minutes of stirring. The water was removed under reduced pressure to yield a crude colorless oil. Pure product was obtained from recrystallization of the oil with water and heptane to yield 690 mg of benzyltrimethylammonium 3-aminosulfonyl-5-butylamino-4-phenoxybenzoate as light pink crystals.

reactant | benzyltrimethylammonium hydroxide | 2.7 mmol, 451 mg | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | bumetanide | 2.7 mmol, 1 g | CCCCNC=1C=C(C=C(C1OC=2C=CC=CC2)S(=O)(=O)N)C(=O)O | C17H20N2O5S
reactant | heptane | CCCCCCC | C7H16
solvent | water | 1 mL | O | H2O
product | benzyltrimethylammonium 3-aminosulfonyl-5-butylamino-4-phenoxybenzoate | 690 mg | NS(=O)(=O)C=1C=C(C(=O)[O-])C=C(C1OC1=CC=CC=C1)NCCCC.C(C1=CC=CC=C1)[N+](C)(C)C | InChI=1S/C17H20N2O5S.C10H16N/c1-2-3-9-19-14-10-12(17(20)21)11-15(25(18,22)23)16(14)24-13-7-5-4-6-8-13;1-11(2,3)9-10-7-5-4-6-8-10/h4-8,10-11,19H,2-3,9H2,1H3,(H,20,21)(H2,18,22,23);4-8H,9H2,1-3H3/q;+1/p-1
